US05166204
1.52 g of anhydrous aluminum chloride was suspended in 30 ml of chloroform. Thereto was added 1.69 ml of ethanethiol, and the mixture was stirred at room temperature for 10 minutes. Thereto was dropwise added, in 1 minute, a solution of 770 mg of N-(2-dimethylaminoethyl)-6-methoxycarbazole-3,4-dicarboximide dissolved in 100 ml of chloroform. The mixture was stirred at room temperature overnight. The solvent was removed by distillation under reduced pressure. The residue was mixed with 200 ml of ethyl acetate and 50 ml of an aqueous saturated sodium hydrogencarbonate solution. The mixture was stirred at room temperature for 30 minutes. The resulting insoluble material was removed by filtration. The separated insoluble material was washed with 50 ml of ethyl acetate. The washings were combined with the previously separated filtrate. The organic layer was separated, washed with an aqueous saturated sodium chloride solution, and dried over anhydrous magnesium sulfate. The solvent was removed by distillation under reduced pressure. The residue was recrystallized from n-propanol to obtain 0.49 g (yield: 66%) of N-(2-dimethylaminoethyl)-6-hydroxycarbazole-3,4-dicarboximide as orange crystals.

reactant | aluminum chloride | 1.52 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | ethanethiol | 1.69 ml | C(C)S | C2H6S
reactant | N-(2-dimethylaminoethyl)-6-methoxycarbazole-3,4-dicarboximide | 770 mg | CN(CCN1C(=O)C=2C=CC=3NC4=CC=C(C=C4C3C2C1=O)OC)C | C19H19N3O3
solvent | chloroform | 30 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
product | N-(2-dimethylaminoethyl)-6-hydroxycarbazole-3,4-dicarboximide | 0.49 g, yield: 66% | CN(CCN1C(=O)C=2C=CC=3NC4=CC=C(C=C4C3C2C1=O)O)C | C18H17N3O3
